US09290485B2
b) 3-Benzyl-[1,2,4]oxadiazole-5-carboxylic acid
A mixture of 3-Benzyl-[1,2,4]oxadiazole-5-carboxylic acid ethyl ester (360 mg, 1.6 mmol) and lithiumhydroxide-hydrate (65 mg, 1.6 mmol) in 10 mL MeOH and 5 mL water was stirred at room temperature for 1 h. The mixture was evaporated in vacuo to yield the crude product which was used in the next step without further purification.

reactant | 3-Benzyl-[1,2,4]oxadiazole-5-carboxylic acid ethyl ester | 1.6 mmol, 360 mg | C(C)OC(=O)C1=NC(=NO1)CC1=CC=CC=C1 | C12H12N2O3
reactant | lithiumhydroxide-hydrate | 1.6 mmol, 65 mg | O.[OH-].[Li+]
solvent | MeOH | 10 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | 3-Benzyl-[1,2,4]oxadiazole-5-carboxylic acid | C(C1=CC=CC=C1)C1=NOC(=N1)C(=O)O | C10H8N2O3
